US06180627B2
tert-Butyl 2-{[3-(bromomethyl)benzyl]oxy}ethylcarbamate
Sodium hydride (125 mg, 60% dispersion in mineral oil, 3.13 mmol) was added portionwise to an ice-cooled solution of tert-butyl 2-hydroxyethylcarbamate (500 mg, 3.10 mmol), and 1,3-bis(bromomethyl)benzene (8.2 g, 31.0 mmol) in tetrahydrofuran (15 ml), and the reaction stirred at 0° C. for an hour under a nitrogen atmosphere, then allowed to warm to room temperature. Saturated ammonium chloride solution (10 ml) was added, and the mixture partitioned between water and ethyl acetate, and the layers separated. The organic phase was then dried over MgSO4, and evaporated under reduced pressure. The residue was purified by column chromatography on silica gel using an elution gradient of ethyl acetate:pentane (15:85 to 75:25) to give the title compound as a colourless oil, (796 mg, 74%).

reactant | Sodium hydride | 3.13 mmol, 125 mg | [H-].[Na+]
reactant | tert-butyl 2-hydroxyethylcarbamate | 3.10 mmol, 500 mg | OCCNC(OC(C)(C)C)=O | C7H15NO3
reactant | 1,3-bis(bromomethyl)benzene | 31.0 mmol, 8.2 g | BrCC1=CC(=CC=C1)CBr | C8H8Br2
reactant | ammonium chloride | 10 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | tert-Butyl 2-{[3-(bromomethyl)benzyl]oxy}ethylcarbamate | 796 mg, 74% | BrCC=1C=C(COCCNC(OC(C)(C)C)=O)C=CC1 | C15H22BrNO3
